US07449457B2
N-(5-Methylpyridin-2-yl)-2-aminobenzamide
To a stirring solution of N-(5-methylpyridin-2-yl)-2-nitrobenzamide (1.5 g, 5.8 mmol) and Ni(OAC)2.4H2O (2.9 g, 11.7 mmol) in THF (20 mL) and methanol (40 mL) at 0° C. was added, in small portions, sodium borohydride (0.88 g, 23.2 mmol). After complete addition and an additional 5 min, the solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate (200 mL) and 50% conc NH4OH (200 mL). The organic phase was separated and washed again with 50% conc NH4OH, followed by brine, then dried with MgSO4, filtered and concentrated in vacuo to give 1.25 g (95%) of a light yellow solid.

reactant | N-(5-methylpyridin-2-yl)-2-nitrobenzamide | 5.8 mmol, 1.5 g | CC=1C=CC(=NC1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C13H11N3O3
reactant | methanol | 40 mL | CO | CH4O
reactant | sodium borohydride | 23.2 mmol, 0.88 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(5-Methylpyridin-2-yl)-2-aminobenzamide | 1.25 g, 95% | CC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N)=O | C13H13N3O
